US09126993B2
N-[2-(6-fluorobiphenyl-3-yl)propan-2-yl]-1,4-diazabicyclo[3.2.2]nonane-4-carboxamide
Using general procedure E, N-[2-(3-bromo-4-fluorophenyl)propan-2-yl]-1,4-diazabicyclo[3.2.2]nonane-4-carboxamide (100 mg, 0.261 mmol), phenylboronic acid (79 mg, 0.65 mmol) and palladium (II) acetate gave the title compound as an off-white solid (66 mg, 66%). 1H NMR (400 MHz, CDCl3) δ 7.54 (m, 2H), 7.44-7.40 (m, 5H), 7.08(m, 1H), 4.78(br s, 1H), 4.00 (br s, 1H), 3.60 (m, 2H), 3.11-2.92 (m, 6H), 2.00 (m, 2H) 1.67(m, 7H), 1.26 (s, 1H) ppm. 13C NMR (100 MHz, CDCl3) δ 159.6, 155.6, 144.6, 136.5, 129.3, 128.6, 128.5, 127.8, 127.5, 125.7, 125.6, 116.1, 115.9, 57.9, 55.3, 48.2, 46.4, 46.4, 41.6, 30.6, 30.5, 29.9, 27.6 ppm. Purity: >99% UPLCMS (210 nm); retention time 0.88 min; (M+1) 382.

reactant | N-[2-(3-bromo-4-fluorophenyl)propan-2-yl]-1,4-diazabicyclo[3.2.2]nonane-4-carboxamide | 0.261 mmol, 100 mg | BrC=1C=C(C=CC1F)C(C)(C)NC(=O)N1CCN2CCC1CC2 | C17H23BrFN3O
reactant | phenylboronic acid | 0.65 mmol, 79 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-[2-(6-fluorobiphenyl-3-yl)propan-2-yl]-1,4-diazabicyclo[3.2.2]nonane-4-carboxamide | 66 mg, 66% | FC1=CC=C(C=C1C1=CC=CC=C1)C(C)(C)NC(=O)N1CCN2CCC1CC2 | C23H28FN3O
